US06410550B1
A) 1-(4-Chloro-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-10-yl)-2,2,2-trifluoro-ethanone
1-(4-Amino-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-10-yl)-2,2,2-trifluoro-ethanone (460 mg, 1.7 mmol) was dissolved in H2O (3 mL) and concentrated HCl solution(1 mL) then cooled to 0° C. and treated with a solution of sodium nitrite (NaNO2) (275 mg) in H2O (1 mL) dropwise. To the resulting solution was added a CuCl (202 mg, prepared as described above, 2.04 mmol) in concentrated HCl solution (2 mL) over 10 minutes (gas evolution observed). The resulting solution was warmed to 60° C. for 15 minutes, then was cooled to room temperature and extracted with EtOAc (4×30 mL). After drying over Na2SO4, the solution was filtered and concentrated to an oil which was filtered through a Silica pad to remove baseline material eluting with 50% EtOAc/hexanes to give an oil (470 mg, 95% ).

reactant | 1-(4-Amino-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-10-yl)-2,2,2-trifluoro-ethanone | 1.7 mmol, 460 mg | NC1=CC=2C3CN(CC(C2C=C1)C3)C(C(F)(F)F)=O | C13H13F3N2O
reactant | sodium nitrite | 275 mg | N(=O)[O-].[Na+]
reactant | HCl | 2 mL | Cl | ClH
reactant | HCl | 1 mL | Cl | ClH
solvent | H2O | 3 mL | O | H2O
solvent | H2O | 1 mL | O | H2O
catalyst | CuCl | 2.04 mmol, 202 mg | Cl[Cu]
product | 1-(4-Chloro-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-10-yl)-2,2,2-trifluoro-ethanone | 470 mg, 95% | ClC1=CC=2C3CN(CC(C2C=C1)C3)C(C(F)(F)F)=O | C13H11ClF3NO
